US05763489
A mixture of ethyl [5,6,7,8-tetrahydro-6-(2-hydroxyethyl)-1-naphthyloxy]acetate (50 mg), N,N-diphenylcarbamoyl chloride (50 mg), and pyridine (32 mg) was stirred at 100° C. for 1 hour and 40 minutes, cooled to room temperature, and partitioned between ethyl acetate and 1N hydrochloric acid. The ethyl acetate layer was washed successively with water, aqueous sodium bicarbonate, and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed (toluene-ethyl acetate) over silica gel to afford 2-[5-(ethoxycarbonylmethoxy)-1,2,3,4-tetrahydro-2-naphthyl]ethyl N,N-diphenylcarbamate (31 mg) as a syrup.

reactant | ethyl [5,6,7,8-tetrahydro-6-(2-hydroxyethyl)-1-naphthyloxy]acetate | 50 mg | OCCC1CC=2C=CC=C(C2CC1)OCC(=O)OCC | C16H22O4
reactant | N,N-diphenylcarbamoyl chloride | 50 mg | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
solvent | pyridine | 32 mg | N1=CC=CC=C1 | C5H5N
product | 2-[5-(ethoxycarbonylmethoxy)-1,2,3,4-tetrahydro-2-naphthyl]ethyl N,N-diphenylcarbamate | 31 mg | C1(=CC=CC=C1)N(C(OCCC1CC2=CC=CC(=C2CC1)OCC(=O)OCC)=O)C1=CC=CC=C1 | C29H31NO5
